US09062076B2
To a solution of (E)-3-(3,4-dimethoxyphenyl)acrylic acid (0.46 g, 2.22 mmol) and 3,4-dihydro-2H-benzo[b][1,4]oxazine (0.20 g, 1.48 mmol) in DCM (15 mL) was added EDC.HCl (0.71 g, 3.70 mmol), HOBt (0.60 g, 3.70 mmol) and Et3N (0.37 g, 3.70 mmol). The mixture was stirred at room temperature overnight then diluted with water and extracted with DCM. The organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel using petroleum ether/ethyl acetate 5:1 (v:v) as eluent to give (E)-1-(2,3-dihydrobenzo[b][1,4]oxazin-4-yl)-3-(3,4-dimethoxyphenyl)prop-2-en-1-one (230 mg, 32%). 1H-NMR (400 MHz, CDCl3) δ 3.88 (s, 3H), 3.91 (s, 3H), 4.08 (m, 2H), 4.37 (m, 2H), 6.86 (d, J=8.4 Hz, 1H), 6.90 (m, 1H), 6.92 (d, J=15.2 Hz, 1H), 6.96 (dd, J=8.0, 1.6 Hz, 1H), 6.99 (d, J=2.0 Hz, 1H), 7.08-7.13 (m, 2H), 7.20 (br d, J=7.6 Hz, 1H), 7.02 (d, J=15.6 Hz, 1H); LC-MS (ES-API); rt 8.72 min; m/z calculated for C19H19NO4 [M+H]+ 326.1, found 326.1.

reactant | (E)-3-(3,4-dimethoxyphenyl)acrylic acid | 2.22 mmol, 0.46 g | COC=1C=C(C=CC1OC)/C=C/C(=O)O | C11H12O4
reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.48 mmol, 0.20 g | O1C2=C(NCC1)C=CC=C2 | C8H9NO
reactant | EDC.HCl | 3.70 mmol, 0.71 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 3.70 mmol, 0.60 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 3.70 mmol, 0.37 g | CCN(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-1-(2,3-dihydrobenzo[b][1,4]oxazin-4-yl)-3-(3,4-dimethoxyphenyl)prop-2-en-1-one | 230 mg, 32% | O1C2=C(N(CC1)C(\C=C\C1=CC(=C(C=C1)OC)OC)=O)C=CC=C2 | C19H19NO4
